US03947441
3 g of 2-amino-4-chloro-5-(3,4,5-trimethoxybenzyl)-pyrimidine is added to a methanolic hydroxylamine solution prepared from 1.4 g of hydroxylamine-hydrochloride, 0.46 g of sodium and 50 ml of absolute methanol. The mixture is stirred for 48 hours at 40°; it is subsequently concentrated in vacuo and the residue is recrystallised from butanol to obtain 2-amino-4-(hydroxyamino)-5-(3,4,5-trimethoxybenzyl)-pyrimidine, M.P. 208°-210°, which is identical to the product described in Example 2.

reactant | 2-amino-4-chloro-5-(3,4,5-trimethoxybenzyl)-pyrimidine | 3 g | NC1=NC=C(C(=N1)Cl)CC1=CC(=C(C(=C1)OC)OC)OC | C14H16ClN3O3
reactant | hydroxylamine | NO | H3NO
reactant | hydroxylamine-hydrochloride | 1.4 g | Cl.NO
reactant | sodium | 0.46 g | [Na] | Na
solvent | methanol | 50 ml | CO | CH4O
product | 2-amino-4-(hydroxyamino)-5-(3,4,5-trimethoxybenzyl)-pyrimidine | NC1=NC=C(C(=N1)NO)CC1=CC(=C(C(=C1)OC)OC)OC | C14H18N4O4
